US07932211B2
Step 1: 3-fluoro-2-methyl-4-trifluoromethylbenzoic acid
25.0 g (120.1 mmol) of 3-fluoro-4-trifluoromethylbenzoic acid were dissolved in 250 ml of THF, and 100.9 ml (2.5M in hexane, 252.3 mmol) of n-butyllithium were added dropwise at −40° C. The mixture was stirred for 3.5 h, and a solution of 51.2 g (360.4 mmol) of iodomethane in 50 ml of dry THF was then added dropwise. The mixture was stirred for 16 h, and after half an hour the temperature slowly increased to room temperature (RT). For work-up, 150 ml of 1M HCl were added carefully. The mixture was extracted with diethyl ether, and the organic phase was then extracted with 1M NaOH. The aqueous phase was acidified and then extracted with diethyl ether. The organic phase was washed with water, dried and freed from the solvent. The residue was titrated with n-heptane and the solid was removed by filtration. What was isolated were 13.5 g of the pure product.

reactant | 3-fluoro-4-trifluoromethylbenzoic acid | 120.1 mmol, 25.0 g | FC=1C=C(C(=O)O)C=CC1C(F)(F)F | C8H4F4O2
reactant | n-butyllithium | 252.3 mmol, 2.5M, 100.9 ml | C(CCC)[Li]
reactant | iodomethane | 360.4 mmol, 51.2 g | IC | CH3I
reactant | HCl | 1M, 150 ml | Cl | ClH
solvent | THF | 250 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 3-fluoro-2-methyl-4-trifluoromethylbenzoic acid | FC=1C(=C(C(=O)O)C=CC1C(F)(F)F)C | C9H6F4O2
